US09399637B2
Step 4) 3-(9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (203.2 mg, 0.4843 mmol), HOAT (105.8 mg, 0.7773 mmol) and EDCI (144.5 mg, 0.7538 mmol) in DCM/DMF (4 mL/1 mL) were added N,N-diethylethanamine (209.1 mg, 2.066 mmol) and 2-cyanoacetic acid (48.1 mg, 0.565 mmol). The reaction was stirred at rt for 2.5 h and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1) to give the title compound as a light pink solid (48.4 mg, 20.4%).

reactant | N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.4843 mmol, 203.2 mg | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCNCC2)CC1)C | C24H33N7
reactant | HOAT | 0.7773 mmol, 105.8 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.7538 mmol, 144.5 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-diethylethanamine | 2.066 mmol, 209.1 mg | C(C)N(CC)CC | C6H15N
reactant | 2-cyanoacetic acid | 0.565 mmol, 48.1 mg | C(#N)CC(=O)O | C3H3NO2
solvent | DCM DMF | 4 mL | C(Cl)Cl.CN(C)C=O
product | 3-(9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 48.4 mg, 20.4% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1)C | C27H34N8O
